US05432195
Step 3: 2-Bromoacetyl-5-tert-butylbenzofuran
2-Acetyl-5-tert-butylbenzofuran (86.5 g) was dissolved in 800 ml of ether and, with stirring at room temperature, 63.9 g of bromine was dropped thereinto. When the crystals started to be separated, the reaction mixture was cooled with ice water. After completion of the dropping, the mixture was stirred for 30 minutes, the reaction mixture was poured into ice water and, until the crystals were dissolved, ethyl acetate was added thereto. The organic layer was washed with water for three times, dried over anhydrous magnesium sulfate, concentrated in vacuo and n-hexane was added to the residue to crystallize followed by filtrating to give 100.1 g of crystals. M.p. 100°-102° C.

reactant | 2-Acetyl-5-tert-butylbenzofuran | 86.5 g | C(C)(=O)C=1OC2=C(C1)C=C(C=C2)C(C)(C)C | C14H16O2
reactant | bromine | 63.9 g | BrBr | Br2
solvent | ether | 800 ml | CCOCC | C4H10O
product | 2-Bromoacetyl-5-tert-butylbenzofuran | 100.1 g | BrCC(=O)C=1OC2=C(C1)C=C(C=C2)C(C)(C)C | C14H15BrO2
